US05276035
1-[2-(bis-(4-fluorophenyl)-methoxy)-ethyl]-4-(3-phenyloxadiazol-5-yl-methyl)piperazine
1.08 g (3.3 mM) of 1-[2-(bis-(4-fluorophenyl)-methoxy)ethyl]piperazine and 0.97 g of 3-phenyl-5-chloromethyl-1,2,4-oxadiazole (prepared according to Chem.Ber. 105 (1972)2825) were dissolved in 5 ml of dry dimethylformamide. 1.4 g of potassium carbonate were added and the mixture was stirred at room temperature overnight. Toluene and water were added, the aqueous phase extracted with toluene, the combined organic phases washed three times with water, treated with charcoal and evaporated in vacuo. The residue was dissolved in 10 ml of ethanol and 0.69 g of maleic acid were added. The precipitate was isolated by filtration and recrystallized from hot acetonitrile to obtain the dimaleate salt of the title compound as colourless crystals melting at 142°-143°. Analytical data were in accordance with the proposed structure.

reactant | 1-[2-(bis-(4-fluorophenyl)-methoxy)ethyl]piperazine | 3.3 mM, 1.08 g | FC1=CC=C(C=C1)C(OCCN1CCNCC1)C1=CC=C(C=C1)F | C19H22F2N2O
reactant | 3-phenyl-5-chloromethyl-1,2,4-oxadiazole | 0.97 g | C1(=CC=CC=C1)C1=NOC(=N1)CCl | C9H7ClN2O
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[2-(bis-(4-fluorophenyl)-methoxy)-ethyl]-4-(3-phenyloxadiazol-5-yl-methyl)piperazine | FC1=CC=C(C=C1)C(OCCN1CCN(CC1)CC1=CN(NO1)C1=CC=CC=C1)C1=CC=C(C=C1)F | C28H30F2N4O2
